US08859549B2
4-(2-chloropyridin-4-yl)phthalazin-1(2H)-one
A mixture of 4-chlorophthalazin-1(2H)-one (300 mg, 1.66 mmol), 2-chloropyridin-4-ylboronic acid (314 mg, 1.99 mmol), Cs2CO3 (1080 mg, 3.32 mmol) and PdCl2(dppf) (71.5 mg, 0.083 mmol) in dioxane (6 mL) was heated at 160° C. under microwave condition for 20 minutes. The mixture was diluted with EtOAc and washed with saturated aqueous NaHCO3, dried (Na2SO4), filtered, and concentrated to afford the title compound: MS (APCI) M/Z 257 (M+H)+.

reactant | 4-chlorophthalazin-1(2H)-one | 1.66 mmol, 300 mg | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | 2-chloropyridin-4-ylboronic acid | 1.99 mmol, 314 mg | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
reactant | Cs2CO3 | 3.32 mmol, 1080 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.083 mmol, 71.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(2-chloropyridin-4-yl)phthalazin-1(2H)-one | ClC1=NC=CC(=C1)C1=NNC(C2=CC=CC=C12)=O | C13H8ClN3O
